US06124297
2,6-Dichloro-3-pyridylmethylamine
In a mixture of 50 ml EtOH and 20 ml DMF was dissolved 3.1 g (0.01 mole) of N-(2,6-dichloro-3-pyridylmethyl)phthalimide under heating, followed by addition of 0.75 g (0.015 mole) of H2NNH2 ·H2O under reflux. After 1 hour of refluxing, EtOH and DMF were distilled off. To the residue were added 10 ml of concentrated hydrochloric acid and 5 ml of water, and the mixture was refluxed for 30 minutes. The resulting crystals were filtered off and the filtrate was neutralized with NaHCO3 and extracted with CH2Cl2 (30 ml×3). The extract was dried over MGSO4 and the solvent was distilled off to give 1.45 g of the title compound as a yellow oil.

reactant | N-(2,6-dichloro-3-pyridylmethyl)phthalimide | 0.01 mole, 3.1 g | ClC1=NC(=CC=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Cl | C14H8Cl2N2O2
solvent | EtOH | 50 ml | CCO | C2H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2,6-Dichloro-3-pyridylmethylamine | 1.45 g | ClC1=NC(=CC=C1CN)Cl | C6H6Cl2N2
